US04588731
A solution of 9 g of N-phenylhydroxylamine [described in Organique Synthese, Vol. 1, p. 445]was added dropwise at 0° C. with stirring under an inert atmosphere to a suspension of 3.85 g of 50% sodium hydride in 100 ml of tetrahydrofuran, and after stirring at 5° C. for 30 minutes, a solution of 18.8 g of ethyl 4-chloro-3-quinoline carboxylate in 100 ml of tetrahydrofuran was added at 0° C. The mixture was stirred for 16 hours at ambient temperature and after concentration to dryness under reduced pressure, the residue was taken up in ice. The mixture was extracted with methylene chloride and the organic phase was washed, dried, and concentrated to dryness. The residue was purified by chromatography on silica (eluent: ethyl acetate) to obtain 1.2 g of 2-phenylisoxazolo(4,5-c)quinolin-3-(2H)-one (corresponding to the 3rd eluted fraction) melting at 163° C. after crystallization from isopropyl ether.

reactant | N-phenylhydroxylamine | 9 g | C1(=CC=CC=C1)NO | C6H7NO
reactant | sodium hydride | 3.85 g | [H-].[Na+]
reactant | ethyl 4-chloro-3-quinoline carboxylate | 18.8 g | ClC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C12H10ClNO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-phenylisoxazolo(4,5-c)quinolin-3-(2H)-one | 1.2 g | C1(=CC=CC=C1)N1OC2=C(C=NC=3C=CC=CC23)C1=O | C16H10N2O2
